US04568687
2-[4-(1H-imidazol-1-yl)butyl]-1H-isoindole-1,3(2H)-dione
A mixture of 0.1 mole of 2-(4-bromobutyl)-1H-isoindole-1,3(2H)-dione and 0.1 mole of the silver salt of imidazole were heated in 300 ml. of dimethylformamide for 8 hours. The reaction mixture was concentrated to remove the solvent and the residue was boiled with 200 ml. of toluene and filtered to remove the insoluble material. The toluene layer was concentrated and the desired product was purified by HPLC using ethyl acetate and a silica gel column.

reactant | 2-(4-bromobutyl)-1H-isoindole-1,3(2H)-dione | 0.1 mole | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
reactant | imidazole | N1C=NC=C1 | C3H4N2
catalyst | silver | 0.1 mole | [Ag] | Ag
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[4-(1H-imidazol-1-yl)butyl]-1H-isoindole-1,3(2H)-dione | N1(C=NC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C15H15N3O2
